Code Model Test - 3d Table Model
* Ring oscillator made of inverters
*
*** analysis type ***
.control
option trtol=1
*dc V1 0.0 1.7 0.1 V2 0.3 1.7 0.3
*op
tran 100p 20n
*plot i(Vs) i(Vs2)
plot v(in1)
rusage
.endc
*
*** input sources ***
*
v1 d 0 DC 1.5
v2 g 0 DC 1.5
Vs s 0 0
Vs2 s2 0 0

vsinv vss 0 0
vdinv vdd 0 1.5
*
*********************

*xmosnt d g s tbmosn
*mn2 d g s2 s2 n1 l=0.13u w=10u ad=5p pd=6u as=5p ps=6u  rgeoMod=1

.subckt inv vd vs in out
*mp2 out in vd vd p1 l=0.13u w=10u ad=5p pd=6u as=5p ps=6u
xmospt out in vd vd tbmosp
*mn2 out in vs vs n1 l=0.13u w=5u ad=5p pd=6u as=5p ps=6u
xmosnt out in vs vs tbmosn
.ends

xmosinv1 vdd vss in1 out1 inv
xmosinv2 vdd vss out1 out2 inv
xmosinv3 vdd vss out2 out3 inv
xmosinv4 vdd vss out3 out4 inv
xmosinv5 vdd vss out4 in1 inv

.subckt tbmosn d g s b
*** table model of nmos transistor ***
cdg d g 0.01p
csg s g 0.014p
amos1 %vd(d s) %vd(g s) %vd(b s) %id(d s) mostable1
.model mostable1 table3d (offset=0.0 gain=0.5 order=3 file="bsim4n-3d-1.table")
* NMOS L=0.13u W=10.0u rgeoMod=1
* BSIM 4.7
* change width of transistor by modifying parameter "gain"
.ends

.subckt tbmosp d g s b
*** table model of pmos transistor ***
cdg d g 0.01p
csg s g 0.014p
amos2 %vd(d s) %vd(g s) %vd(b s) %id(d s) mostable2
.model mostable2 table3d (offset=0.0 gain=1 order=3 file="bsim4p-3d-1.table")
* PMOS L=0.13u W=10.0u rgeoMod=1
* BSIM 4.7
* change width of transistor by modifying parameter "gain"
.ends

.include ./modelcards/modelcard.nmos
.include ./modelcards/modelcard.pmos

.end
